US04157399
2-phenyl-3-phenylamino-benzo(b)thiophene.
A mixture of 9.6 g (30 mmol) of anilide of α-phenylthio-phenylacetic acid (colourless needles in a mixture of benzene and petroleum ether, mp 142°-143°), 70 milliliters of absolute toluene and 30.0 g (211 mmol) of phosphoric anhydride is stirred at 100° for 8 hours. The cooled reaction mixture is poured onto ice, made alkaline by concentrated ammonia and extracted with methylene chloride. By drying over sodium sulphate and evaporating the organic phase, 8.9 g (98.4% of theory) of crude product are obtained which are recrystallised in ethanol: 5.7 g (64% of theory) of yellow crystals, mp 150°-151° (ethanol).

reactant | α-phenylthio-phenylacetic acid | C1(=CC=CC=C1)SC(C(=O)O)C1=CC=CC=C1 | C14H12O2S
reactant | toluene | 70 milliliters | C1(=CC=CC=C1)C | C7H8
reactant | phosphoric anhydride | 211 mmol, 30.0 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | ammonia | N | H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-phenyl-3-phenylamino-benzo(b)thiophene | C1(=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)NC2=CC=CC=C2 | C20H15NS
